US08871790B2
Compound 349.1. 2-Bromo-5-methylpyridine 1-oxide
Into a round-bottom flask, was placed a solution of 2-bromo-5-methylpyridine (10.0 g, 58.1 mmol, 1.00 equiv) in dichloromethane (250 mL). mCPBA (15.0 g, 86.9 mmol, 1.50 equiv) was added in several batches at room temperature. The resulting solution was stirred overnight at 30° C., then diluted with 50 mL of 2N sodium hydroxide (aq.). The pH value of the solution was adjusted to 10 with 2N sodium hydroxide (aq.). The aqueous phase was extracted with 3×100 mL of dichloromethane and the combined organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield 11.0 g (91%) of 2-bromo-5-methylpyridin-1-ium-1-olate as a yellow solid.

reactant | 2-bromo-5-methylpyridine | 58.1 mmol, 10.0 g, 1.00 equiv | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | mCPBA | 86.9 mmol, 15.0 g, 1.50 equiv | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2N, 50 mL | [OH-].[Na+]
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 2-Bromo-5-methylpyridine 1-oxide | BrC1=[N+](C=C(C=C1)C)[O-] | C6H6BrNO
